US04316893
Preparation of 1-(2-chlorophenyl)azacyclopentan-2-one having the formula
Following example 19, 12.57 g (0.1 M) of 2-chloroaniline and 9.5 g (0.11 M) of γ-butyrolactone were heated for 48 hours. The excess starging materials were removed at 50°-80°/0.3 mm. Distillation of the residue gave 4.9 g (25%) of product (45% based on recovered 2-chloroaniline); b.p. 150°-155°/0.3-0.4 mm.

reactant | 2-chloroaniline | 0.1 M, 12.57 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | γ-butyrolactone | 0.11 M, 9.5 g | C1(CCCO1)=O | C4H6O2
product | 1-(2-chlorophenyl)azacyclopentan-2-one | 4.9 g | ClC1=C(C=CC=C1)N1C(CCC1)=O | C10H10ClNO
